* C:\Users\emanu\Desktop\DCE-GRUPO10\REALIMENTADOR\LTSpice\Calculo.asc
V1 5V 0 5
V2 0 -5V 5
XU1 N001 N003 15V -15V error AD817
R1 N001 0 1k
R2 0 N001 {R}
R3 error N003 {R}
R4 Vf N003 1k
Lf1 N002 vo 33µ
Cf1 vo 0 330n
R5 vo 0 8
R6 Vf vin 19k
R7 0 Vf 1k
C1 Vf vin 82p
R10 comp error 10k
C3 comp error 100p
R11 comp 0 1k
V8 15V 0 15
V9 0 -15V 15
V10 VCC 0 30
V11 0 VEE 30
V4 vin 0 AC 1
B1 N002 0 V=delay(V(comp), 300n)*20
V3 N010 0 AC 1
R8 t_f N010 19k
R9 0 t_f 1k
C2 t_f N010 82p
R12 t_comp N004 10k
C4 t_comp N004 100p
R13 t_comp 0 1k
V5 N004 0 AC 1
XU2 N007 N009 15V -15V t_error AD817
R14 N007 N006 1k
R15 0 N007 1Meg
R16 t_error N009 1Meg
R17 0 N009 1k
V6 N006 0 AC 1
Lf2 N008 t_vo 33µ
Cf2 t_vo 0 330n
V7 N008 0 AC 20
R18 t_vo 0 8
R21 t_comp2 N005 10k
C6 t_comp2 N005 100p
R22 t_comp2 0 8.2k
V12 N005 0 AC 1
.ac dec 10000 0.1 10Meg
.include AD817.301
.param R=470k
.include LM311.301
.options plotwinsize = 0
.options numdgt = 15
.model SW SW(Ron=.01 Roff=10Meg Vt=1)
.backanno
.end
